US09353107B2
Step-ii: tert-butyl 4-(4-(3-(3,5-dimethyl-1-(3-methylbenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazine-1-carboxylate
Using similar reaction conditions as described in step-iii of example-1, tert-butyl 4-(4-(3-(3,5-dimethyl-1-(3-methylbenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazine-1-carboxylate (90 mg, 0.1 mmol) was hydrolyzed by lithium hydroxide (9 mg, 0.3 mmol), THF/Methanol/water (1/1/0.5 ml) to afford 20 mg (29% yield) of the titled compound. MS: m/z=577.2 (M+1).

reactant | tert-butyl 4-(4-(3-(3,5-dimethyl-1-(3-methylbenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazine-1-carboxylate | 0.1 mmol, 90 mg | CC1=NN(C(=C1C1=CN(C2=NC=C(C=C21)C2=CC=C(C=C2)N2CCN(CC2)C(=O)OC(C)(C)C)S(=O)(=O)C2=CC=C(C)C=C2)C)CC2=CC(=CC=C2)C | C42H46N6O4S
reactant | lithium hydroxide | 0.3 mmol, 9 mg | [OH-].[Li+]
solvent | THF Methanol water | 0.5 ml | C1CCOC1.CO.O
product | tert-butyl 4-(4-(3-(3,5-dimethyl-1-(3-methylbenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazine-1-carboxylate | 20 mg, 29% yield | CC1=NN(C(=C1C1=CNC2=NC=C(C=C21)C2=CC=C(C=C2)N2CCN(CC2)C(=O)OC(C)(C)C)C)CC2=CC(=CC=C2)C | C35H40N6O2
